US08058441B2
(c). 1-Acetyl-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline-6-carboxylic acid methyl ester
Friedel-Crafts alkylation of benzene (60 ml) with 1-acetyl-1,2-dihydro-2,2,4-trimethylquinoline-6-carboxylic acid methyl ester (2.3 g) in the presence of AlCl3 (4.4 g) was performed according to the method described in example 3.

reactant | 1-acetyl-1,2-dihydro-2,2,4-trimethylquinoline-6-carboxylic acid methyl ester | 2.3 g | COC(=O)C=1C=C2C(=CC(N(C2=CC1)C(C)=O)(C)C)C | C16H19NO3
reactant | AlCl3 | 4.4 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | 1-Acetyl-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline-6-carboxylic acid methyl ester | COC(=O)C=1C=C2C(CC(N(C2=CC1)C(C)=O)(C)C)(C)C1=CC=CC=C1 | C22H25NO3
